US08808549B2
Phthalic acid mono-(2-acryloyloxy-ethyl)ester (HEAP)
Phthalic anhydride (112.1 grams), 2-hydroxyethyl acrylate (87.9 grams), and triethylamine (0.44 grams) were mixed in a round bottom flask. A small amount of dry air was bubbled into the liquid reaction mixture. The reaction mixture was mixed and heated to 75° C. and held at that temperature for six hours. The product was cooled to room temperature. NMR was used to confirm that the product was phthalic acid mono-(2-acryloyloxy-ethyl)ester. The product partially crystallized over time. The product was mixed with 1-methoxy-2-propanol to obtain a 50 weight percent solution.

reactant | Phthalic anhydride | 112.1 grams | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 2-hydroxyethyl acrylate | 87.9 grams | C(C=C)(=O)OCCO | C5H8O3
solvent | triethylamine | 0.44 grams | C(C)N(CC)CC | C6H15N
product | Phthalic acid mono-(2-acryloyloxy-ethyl)ester | C(C=C)(=O)OCCOC(C=1C(C(=O)O)=CC=CC1)=O | C13H12O6
